US08669234B2
4-Difluoromethoxymethyl-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester:
4-Hydroxymethyl-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester (584 mg, 2.25 mmol) and CuI (86 mg, 0.45 mmol) were suspended in MeCN (10 mL). The reaction mixture was heated to 45° C. and difluoro-fluorosulfonyl-acetic acid (0.465 mL, 4.5 mmol) was added dropwise over the course of 30 min. Stirring was continued for another 3 h, after which the reaction mixture was cooled to RT and concentrated. The residue was taken up in EtOAc and washed with saturated aqueous NaHCO3 and brine then dried over MgSO4, filtered and concentrated. The crude residue was purified by silica column chromatography (19% to 40% EtOAc/Hex) to afford the title compound (394 mg, 57%).

reactant | 4-Hydroxymethyl-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 2.25 mmol, 584 mg | COC(=O)C1N(CC(C1)CO)C(=O)OC(C)(C)C | C12H21NO5
reactant | difluoro-fluorosulfonyl-acetic acid | 4.5 mmol, 0.465 mL | FC(C(=O)O)(S(=O)(=O)F)F | C2HF3O4S
solvent | MeCN | 10 mL | CC#N | C2H3N
catalyst | CuI | 0.45 mmol, 86 mg | [Cu]I
product | 4-Difluoromethoxymethyl-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 394 mg, 57% | COC(=O)C1N(CC(C1)COC(F)F)C(=O)OC(C)(C)C | C13H21F2NO5
